US05198449
Following the procedure for the preparation of 1-benzyl-3-benzoyl-pyrrolidine (U.S. Pat. No. 3,479,370) and using 1-benzhydryl-2-cyanoazetidine (G.B. 1,517,934) and 4-fluorophenylmagnesium bromide, 1-benzhydryl-2(4-fluorobenzoyl)azetidine is obtained. The benzhydryl group is removed by catalytic hydrogenation using palladium on carbon to obtain the title compound.

reactant | 1-benzyl-3-benzoyl-pyrrolidine | C(C1=CC=CC=C1)N1CC(CC1)C(C1=CC=CC=C1)=O | C18H19NO
reactant | 1-benzhydryl-2-cyanoazetidine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(CC1)C#N | C17H16N2
reactant | 4-fluorophenylmagnesium bromide | FC1=CC=C(C=C1)[Mg]Br
product | 1-benzhydryl-2(4-fluorobenzoyl)azetidine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(CC1)C(C1=CC=C(C=C1)F)=O | C23H20FNO
